US08211914B2
With a method similar to that used for the preparation of 2-(2-chloro-phenyl)-5-trifluoromethyl-oxazole-4-carboxylic acid above. 2-(2-trifluoromethoxy-phenyl)-5-trifluoromethyl-oxazole-4-carboxylic acid was prepared from 2-trifluoromethoxy-benzoyl chloride, amino-acetic acid methyl ester and trifluoroacetic anhydride. LCMS calcd for C12H5F6NO4 (m/e) 341, obsd 342 (M+H).

reactant | 2-(2-chloro-phenyl)-5-trifluoromethyl-oxazole-4-carboxylic acid | ClC1=C(C=CC=C1)C=1OC(=C(N1)C(=O)O)C(F)(F)F | C11H5ClF3NO3
reactant | 2-trifluoromethoxy-benzoyl chloride | FC(OC1=C(C(=O)Cl)C=CC=C1)(F)F | C8H4ClF3O2
reactant | amino-acetic acid methyl ester | COC(CN)=O | C3H7NO2
reactant | trifluoroacetic anhydride | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
product | 2-(2-trifluoromethoxy-phenyl)-5-trifluoromethyl-oxazole-4-carboxylic acid | FC(OC1=C(C=CC=C1)C=1OC(=C(N1)C(=O)O)C(F)(F)F)(F)F | C12H5F6NO4
